US08895745B2
Preparation of 1-[3-(7-Ethynyl-imidazo[1,2-a]pyridin-3-yl)-phenyl]-3-(2,2,2-trifluoro-ethyl)-urea
To a solution of 1-(2,2,2-Trifluoro-ethyl)-3-[3-(7-trimethylsilanylethynyl-imidazo[1,2-a]pyridin-3-yl)-phenyl]-urea (25 mg, 0.06 mmol) in THF (5 ml) at 0° C. was added a 1M tetrabutylammonium fluoride solution (0.09 ml) and the reaction mixture stirred for 1 h at 0° C. The reaction mixture was diluted with water and extracted with CH2Cl2. The organic layer was washed with brine, dried (MgSO4) and the solvent removed in vacuo. The residue was purified by reverse phase HPLC to afford the product as an off-white solid (4.2 mg). MS: [M+H]+ 359

reactant | 1-(2,2,2-Trifluoro-ethyl)-3-[3-(7-trimethylsilanylethynyl-imidazo[1,2-a]pyridin-3-yl)-phenyl]-urea | 0.06 mmol, 25 mg | FC(CNC(=O)NC1=CC(=CC=C1)C1=CN=C2N1C=CC(=C2)C#C[Si](C)(C)C)(F)F | C21H21F3N4OSi
reactant | tetrabutylammonium fluoride | 1M, 0.09 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 1-[3-(7-Ethynyl-imidazo[1,2-a]pyridin-3-yl)-phenyl]-3-(2,2,2-trifluoro-ethyl)-urea | 4.2 mg | C(#C)C1=CC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C18H13F3N4O
